US07956216B2
40A: N-(2-cyclopropyl)ethyl-4-phenylbenzamide
Using Preparation Method 1, 4-phenylbenzoic acid was reacted with (2-cyclopropyl)ethylamine. The resulting reaction mixture was purified using SiO2 with CH2Cl2 100%. A white crystalline solid was obtained (29%). NMR 1H (ppm, CDCl3): 7.82 (d, J3=8.2 Hz, 2H), 7.64 (d, J3=8.4 Hz, 2H), 7.60 (d, J3=7.5 Hz, 2H), 7.47-7.34 (m, 3H), 6.26 (br. s., 1H), 3.60-3.53 (m, 2H), 1.54 (quart., J3=6.8 Hz, 2H), 0.76-0.71 (m, 1H), 0.51-0.48 (m, 2H), 0.13-0.11 (m, 2H).

reactant | 4-phenylbenzoic acid | C1(=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O2
reactant | (2-cyclopropyl)ethylamine | C1C(C1)CCN | C5H11N
product | N-(2-cyclopropyl)ethyl-4-phenylbenzamide | C1C(C1)CCNC(C1=CC=C(C=C1)C1=CC=CC=C1)=O | C18H19NO
